US06723722B1
A mixture of triphenylphosphine (0.49 g), phthalimide (0.29 g) and methylene chloride (15 ml) was combined with diethyl azodicarboxylate (0.29 ml) with stirring at 0° C., and stirred for 10 minutes. This solution was combined, at 0° C. with stirring, with a solution of 4-[(6-chloro-2-naphthyl)sulfonyl]-6-(hydoxymethyl)-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone hydrochloride (0.27 g) in methylene chloride (10 ml) and stirred at room temperature for 1 hour. The reaction mixture was washed with saturated aqueous sodium bicarbonate, dried, and concentrated under reduced pressure. The residue was purified by a column chromatography on a silica gel (dichloromethane: 10% aqueous ammonia-containing methanol=10:1) to obtain 2-[(4-[(6-chloro-2-naphthyl)sulfonyl]-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-6-oxo-2-piperazinyl)methyl]-1H-isoindole-1,3(2H)-dione (0.28 g) as a pale yellow powder.

reactant | triphenylphosphine | 0.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.29 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 0.29 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[(6-chloro-2-naphthyl)sulfonyl]-6-(hydoxymethyl)-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone hydrochloride | 0.27 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)CO)N(C1CCN(CC1)C1=CC=NC=C1)C)=O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-[(6-chloro-2-naphthyl)sulfonyl]-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-6-oxo-2-piperazinyl)methyl]-1H-isoindole-1,3(2H)-dione | 0.28 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)=O)N(C1CCN(CC1)C1=CC=NC=C1)C)CN1C(C2=CC=CC=C2C1=O)=O | C34H33ClN6O5S
